US07855227B2
Step B 2-[[2-[4-(3-Fluoro-benzyloxy)-3-methoxy-phenyl]-ethyl]-benzylamino]-acetic Acid Methyl Ester
1.7 g (4.65 mmol) of [2-[4-(3-fluoro-benzyloxy)-3-methoxy-phenyl]-ethyl]-benzylamine, 1.74 ml (10 mmol) of di-isopropylethylamine and 0.5 ml (5.11 mmol) of 2-bromo-acetic acid methyl ester were dissolved in 20 ml of acetonitrile and the reaction was stirred at 70° C. overnight. The solvent was removed under reduced pressure, water was added to the residue and the product was extracted with ethyl acetate. The crude product was purified by flash chromatography (hexane/ethyl acetate 100:0→80:20 gradient v:v) and 1.94 g (95% yield) of the title compound were isolated as a yellow oil.

reactant | [2-[4-(3-fluoro-benzyloxy)-3-methoxy-phenyl]-ethyl]-benzylamine | 4.65 mmol, 1.7 g | FC=1C=C(COC2=C(C=C(C=C2)CCNCC2=CC=CC=C2)OC)C=CC1 | C23H24FNO2
reactant | di-isopropylethylamine | 10 mmol, 1.74 ml | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 2-bromo-acetic acid methyl ester | 5.11 mmol, 0.5 ml | COC(CBr)=O | C3H5BrO2
solvent | acetonitrile | 20 ml | C(C)#N | C2H3N
product | 2-[[2-[4-(3-Fluoro-benzyloxy)-3-methoxy-phenyl]-ethyl]-benzylamino]-acetic Acid Methyl Ester | 1.94 g, 95% yield | COC(CN(CC1=CC=CC=C1)CCC1=CC(=C(C=C1)OCC1=CC(=CC=C1)F)OC)=O | C26H28FNO4
